US08633212B2
Step 3. N-(5′-(3-cyanophenyl)-5,7-dihydrospiro[cyclopenta[d]pyridazine-6,2′-inden]-3′(1′H)-ylidene)cyanamide
To a solution of 3-(1′-oxo-1′,3′,5,7-tetrahydrospiro[cyclopenta[d]pyridazine-6,2′-inden]-6′-yl)benzonitrile (0.0386 g, 0.11 mmol) in CH2Cl2 (5 mL) was added 0.5 mL of 1.0 M TiCl4 in CH2Cl2 at room temperature. After 1.5 h, 0.4 mL of bis(trimethylsilyl)carbodiimide was added to the yellow solution. The resulting mixture was then stirred at room temperature for 20 h. The mixture was quenched with ice, diluted with CH2Cl2, and dried over Na2SO4. After the solvent was removed under reduced pressure, the crude product was directly used in the next step without further purification. LC-MS tR=1.43 min in 3 min chromatography, m/z 362 (MH+).

reactant | 3-(1′-oxo-1′,3′,5,7-tetrahydrospiro[cyclopenta[d]pyridazine-6,2′-inden]-6′-yl)benzonitrile | 0.11 mmol, 0.0386 g | O=C1C2(CC3=CC=C(C=C13)C=1C=C(C#N)C=CC1)CC1=C(C=NN=C1)C2 | C22H15N3O
reactant | bis(trimethylsilyl)carbodiimide | 0.4 mL | C[Si](C)(C)N=C=N[Si](C)(C)C | C7H18N2Si2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 1.0 M, 0.5 mL | Cl[Ti](Cl)(Cl)Cl
product | N-(5′-(3-cyanophenyl)-5,7-dihydrospiro[cyclopenta[d]pyridazine-6,2′-inden]-3′(1′H)-ylidene)cyanamide | C(#N)C=1C=C(C=CC1)C=1C=C2C(C3(CC2=CC1)CC1=C(C=NN=C1)C3)=NC#N | C23H15N5
